*==========================================================
* NCP101X
* ON Semiconductor models developed by Christophe BASSO, Toulouse (FRANCE)
*
* This model is subject to change without notice.
* Users may not directly or indirectly re-sell or 
* re-distribute this model. This model may not 
* be used, modified, or altered 
* without the consent of ON Semiconductor. 
*
* PSpice OrCAD compatible
*
* Revision: December 15th 2005
* This fully floating simplified models accounts for:
*
* various propagation delays 
* overload detection
* overvoltage protection on Vcc
* frequency jittering
* the MOSFET is made of a smooth switch for faster simulations
*
*==========================================================
************
.SUBCKT NCP1010P06 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=65k Conso=1m Ipeak=100m Rdson=26
.ENDS
************
.SUBCKT NCP1010P10 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=100k Conso=1m Ipeak=100m Rdson=26
.ENDS
**********
.SUBCKT NCP1010P13 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=133k Conso=1m Ipeak=100m Rdson=26
.ENDS
************
.SUBCKT NCP1011P06 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=65k Conso=1m Ipeak=250m Rdson=26
.ENDS
************
.SUBCKT NCP1011P10 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=100k Conso=1m Ipeak=250m Rdson=26
.ENDS
**********
.SUBCKT NCP1011P13 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=133k Conso=1m Ipeak=250m Rdson=26
.ENDS
***********
.SUBCKT NCP1012P06 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=65k Conso=1m Ipeak=250m Rdson=12
.ENDS
************
.SUBCKT NCP1012P10 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=100k Conso=1m Ipeak=250m Rdson=12
.ENDS
**********
.SUBCKT NCP1012P13 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=133k Conso=1m Ipeak=250m Rdson=12
.ENDS
***********
.SUBCKT NCP1013P06 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=65k Conso=1m Ipeak=350m Rdson=12
.ENDS
************
.SUBCKT NCP1013P10 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=100k Conso=1m Ipeak=350m Rdson=12
.ENDS
**********
.SUBCKT NCP1013P13 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=133k Conso=1m Ipeak=350m Rdson=12
.ENDS
**********
.SUBCKT NCP1014P06 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=65k Conso=1m Ipeak=450m Rdson=12
.ENDS
**********
.SUBCKT NCP1014P10 VCC FB DRAIN GND
X1 VCC FB DRAIN GND NCP101X params: Fsw=100k Conso=1m Ipeak=450m Rdson=12
.ENDS
**********
.SUBCKT NCP101X 6 2 HV 4 params: Fsw=100k Conso=1m Ipeak=350m Rdson=12
* Vcc FB HV Gnd
.PARAM VCCOFF=8.5 ; VCCoff level
.PARAM VCCON=7.5 ; VCCon level
.PARAM IC1=7m ; DSS source current
.PARAM VCCLATCH=4.7 ; latch-off voltage
.PARAM PRODEL=125n ; internal propagation delay
.PARAM LEB=250n ; Leading Edge Blanking duration
.PARAM SKIPHYSTE=50m ; built-in hysteresis in skip
.PARAM ILATCH=6m ; Vcc OVP latching current
.PARAM IVLIMIT=65m ; internal current limitation
.PARAM RI={IVLIMIT/Ipeak}
.PARAM SKIPLEVEL=500m ; default FB skip level
.PARAM FBDIV={4*SKIPLEVEL/IVLIMIT} ; internal FB divided
.PARAM OPENFB=4 ; open-loop FB voltage
*
*** ESD NETWORK ****
D2 4 2 DCLAMP1 ; 10V ESD FB
D5 4 6 DCLAMP1 ; 10V ESD Vcc
**** SELF-SUPPLY ****
GB2 HV 6 Value = { IF ( V(11) > 3.5, 0, {IC1} ) } ; DSS current capability
XCOMP1 6 10 UVLO COMP2101X
EB5 10 4 Value = { IF ( V(UVLO) < 3.5, {VCCOFF}, {VCCON} ) } ; DSS operating levels
X2 UVLO OVERLATCH 11 OR2101X
XUVLO6 100 6 110 COMP2101X
X50 110 OVERLATCH UVLO6 AND2101X
VUVLO6 100 4 {VCCLATCH} ; latch-off level
Rdummy Ramp 0 10Meg
*** VCC CURRENT SENSING ***
DCLP ICLP 6 DCLP
VCLP ICLP 4 ; latching current sensing
**** OUTPUT PULSE VALIDATION ****
XPULS UVLO OVER PULSOK NC4 TFFLOP101X; turns the pulses on at VCCOFF
* S R Q Q\
**** CURRENT CONSUMPTION ****
ISUPP1 6 4 300u 									; minimum static current consumption
GBSUPP2 6 4 Value = { IF ( V(PULSOK) > 3.5, ({conso} + I(VFBM)), 0 ) } ; internal operating + FB current
GBSUPP3 6 4 Value = { IF ( I(VDRV)>0, I(VDRV), 0 ) }
**** CLOCK SECTION ****
**
** Fsw={Fsw} @ Vcc=8V    }
** Fsw={Fsw}+4% @ Vcc=8.5 }
** Fsw={Fsw}-4% @ Vcc=7.5 } => DeltaV=0.5V, Jittering=0.04, Vref=8V
**
XCLOCK clk1 ramp 6 mduty CLOCK101X params: DC=0.65 Fsw={Fsw} Vref=8V Valley=0V Swing=2.9V DeltaV=0.5V Jittering=0.04
****
XRST MDUTY IMAX SKIP RST OR3101X
XRESET clk1 200 clk2 AND2101X
EBINVRST 200 4 Value = { IF ( V(SKIP)<800mV, 3.5, 0 ) }
XFFLOP clk2 RST Q NC1 TFFLOP101X
RNC1 NC1 4 100k
**** CURRENT SENSE ****
EBVREF REF1 4 Value = { IF ( V(6)>{OPENFB}, {OPENFB}, V(6) ) } ; internal FB reference following Vcc
VFBM REF1 REF; feedback current measure
RFB REF 2 18k ; FB pull-up resistor
EBCLIP ISET 4 Value = { IF ( V(2)/{FBDIV} > V(901), V(901), V(2)/{FBDIV} ) }; internal 1V clamping diode + SS
XCOMP2 LEBO ISET OVERI COMP2101X
XPROPDEL OVERI IMAX UTD101X params: TD={PRODEL}; propagation delay
XDEL3 Q 30 UTD101X params: TD={LEB}
EBLEB LEBO 4 Value = { IF ( V(30) > 3V, V(3), 0 ) }
**** OVERLOAD SECTION ****
EBOVER 50 4 Value = { IF ( (V(ISET)>{IVLIMIT}*0.98) & (V(6)<7.51), 10, 0 ) } ; error flag acknowledgement
XOVER UVLO 50 OVER AND2I101X; UVLO low and OVL, latches off the pulses
XLATCH OVER UVLO6 OVERLATCH NC5 TFFLOP101X; latches off the current source
RNC5 NC5 4 100k
**** SOFT-START SECTION ****
GBSOFT1 4 900 Value = { IF ( V(PULSOK) > 3V, 1mA, 0 ) }
CSOFT 900 4 0.5uF
EBSOFT2 901 4 Value = { IF ( V(900)/{FBDIV} > {IVLIMIT}, {IVLIMIT}, V(900)/{FBDIV} ) }
XSOFT3 940 6 950 COMP2101X; reset de CSOFT at Vcc<5V
VSS 940 4 7.4V
Q100 900 920 4 QRSS
R100 920 950 10k
*** Latching section ***
EB500 502 0 Value = { IF ( I(VCLP) > {ILATCH}, 5V, 0 ) }
R500 502 503 100 ; noise filter
C500 503 0 10n
X501 503 RstOVP QL OVPOK TFFLOP101X
* S R Q Qb
RDUMLATCH QL 4 100k
X502 506 6 RstOVP COMP2101X
V502 506 4 3V ; Latch reset
**** SKIP CYCLE SECTION ****
VREF 1 4 {SKIPLEVEL} ; skip cycle level
XSKIP 150 2 SKIP COMP2101X
EBHYST 150 4 Value = { IF ( V(SKIP) < 3.5, V(1), V(1)+{SKIPHYSTE} ) } ; offset on skip 
**** POWER MOSFET ****
EBDRVU 90 0 Value = { IF ( (V(PULSOK)>3V) & (V(Q)>3V) & (V(OVPOK)>3V), V(6), 100m ) }
Rdrv 90 9001 10
Vdrv 9001 9002 0
Ciss 9002 0 1n
SMOS HV 400 9002 0 MOS_SW
Dbody 4 HV DB
Coss HV 4 15pF
Vsense 400 4
GBsense 4 3 Value = { I(Vsense) }; current sense
Rsense 3 4 {RI} ; voltage transformation
****
.MODEL DSTD D RS=100M CJO=15pF N=0.2
.MODEL DCLAMP1 D BV=10
.MODEL DCLP D BV=8.7V ; VCC active clamping voltage
.MODEL DB D BV=700V
.MODEL QRSS NPN BF=200
.MODEL MOS_SW VSWITCH (RON={Rdson} VON=4 VOFF=3 )
.ENDS
*
.SUBCKT CLOCK101X out12 ramp vcc maxduty2 params: DC=0.6 Fsw={Fsw} Vref=8V Valley=0V 
+ Swing=2.9V DeltaV=1V Jittering=0.04
* Fsw @ Vref
* At Vcc=Vref+DeltaV then Fsw_Vcc=Fsw*(1+Jittering)
.PARAM I1=100uA
.PARAM I2={ (I1*{DC})/(1-{DC}) }
.PARAM Tsw={1/Fsw}
.PARAM Ct={ (Tsw/Swing)*((I1*I2)/(I1+I2)) }
* coeff : frequency jittering based on Vcc level : {1+((V(vcc)-Vref)/DeltaV)*Jittering}
* the jittering depth is (0.04 = +/- 4%)
*
* Vcc input is for jittering
* SET/RESET pulses for clock gen.
*
X100 out outb INVOSC101X
Cmd	outb maxduty 1n
Rmd maxduty	0 100
Dmd1 0 maxduty DCLP
Cpuls out out1 1n
Rpuls out1 0 100
Dmd2 0 out1 DCLP
*
Xbuf1 out1 out12 BUFOSC101X ; formats the pulses
Xbuf2 maxduty maxduty2 BUFOSC101X
*
X4	ramp	4	cmp	COMPAROSC101X
Ct	ramp	0	{Ct} IC=0V
X1 	cmp	OUT	INVOSC101X
EB1 4 0 Value = { IF ( V(CMP) > 3V, {valley}, {valley+swing} ) }
GB2	ramp 0 Value = { IF ( V(CMP) > 3.5V, ({I1}*{DC}*(1+((V(vcc)-{Vref})/{DeltaV})*{Jittering}))/(1-{DC}), 0 ) }
GB3 0 ramp Value = { IF ( V(CMP) < 3.5V, ({I1}*(1+((V(vcc)-{Vref})/{DeltaV})*{Jittering})), 0 ) }
*
.model DCLP D (Cjo=10p Rs=100m N=0.01)
.ENDS clock101X
** Clock subcircuits **
.SUBCKT INVOSC101X 1 2
EB1 4 0 Value = { IF ( V(1)>800mV, 0, 5V ) }
RD 4 2 100
CD 2 0 100P
.ENDS INVOSC101X
*
.SUBCKT BUFOSC101X 1 2
EB1 4 0 Value = { IF ( V(1)>0.5V, 5V, 0V ) }
RD 4 2 10
CD 2 0 10P
.ENDS BUFOSC101X
*
.SUBCKT COMPAROSC101X NINV INV OUT params: VHIGH=12 VLOW=100m
EB1 4 0 Value = { IF ( V(NINV,INV) > 0, {VHIGH}, {VLOW} ) }
RO 4 OUT 100
CO OUT 0 100P
.ENDS COMPAROSC101X
****
**** SUBCIRCUIT MODELS ****
*
.SUBCKT UTD101X 1 2 params: TD=1n
*
*Parameters K=GAIN TD=DELAY
RIN 1 0 1E15
E1 3 0 1 0 1
T1 3 0 2 0 Z0=1 TD={TD}
R1 2 0 1
.ENDS UTD101X
**** 2 INPUT COMPARATOR ****
.SUBCKT COMP2101X 1 2 3
*             + - S
EB1 4 0 Value = { IF ( V(1) > V(2), 5V, 0 ) }
RD 4 3 100
CD 3 0 10P
.ENDS COMP2101X
**** 3 INPUT OR GATE ****
.SUBCKT OR3101X 1 2 3  6
EB1 5 0 Value = { IF ( (V(1)>800m) | (V(2)>800m) | (V(3)>800m), 5, 0 ) }
RD 5 6 100
CD 6 0 10P
.ENDS OR3101X
**** 2 INPUT OR GATE ****
.SUBCKT OR2101X 1 2 3
EB1 4 0 Value = { IF ( (V(1)>800M) | (V(2)>800M), 5V, 0 ) }
RD 4 3 100
CD 3 0 10P
.ENDS OR2101X
**** 2 INPUT AND CIRCUIT ****
.SUBCKT AND2101X 1 2 3
EB1 4 0 Value = { IF ( (V(1)>800M) & (V(2)>800M), 5V, 0 ) }
RD 4 3 100
CD 3 0 10P
.ENDS AND2101X
**** 2 INPUT INVERTED AND CIRCUIT ****
.SUBCKT AND2I101X 1 2 3
EB1 4 0 Value = { IF ( (V(1)<800M) & (V(2)>800M), 5V, 0 ) }
RD 4 3 100
CD 3 0 10P
.ENDS AND2I101X
**** 2 INPUT NOR CIRCUIT ****
.SUBCKT NOR2101X 1 2 3
EB1 4 0 Value = { IF ( (V(1)>800M) | (V(2)>800M), 0V, 5 ) }
RD 4 3 100
CD 3 0 10P
.ENDS NOR2101X
****
.SUBCKT INV101X 1 2
EB1 4 0 Value = { IF ( V(1)>800mV, 0, 10V ) }
RD 4 2 100
CD 2 0 10P
.ENDS INV101X
*
.SUBCKT TFFLOP101X 6 8 2 1
*              S R Q Q\
EBQB   10 0 Value = { IF ( (V(8)<800M) & (V(2)>800M), 0, 10V ) }
EBQ    20 0 Value = { IF ( (V(6)<800M) & (V(1)>800M), 0, 10V ) }
RD1   10 1 100
CD1   1 0 10p IC=5
RD2   20 2 100
CD2   2 0 10p IC=0
.ENDS TFFLOP101X
*
.SUBCKT UVLO101X  1   3 params: VON=12 VOFF=10
*            VIN OUT
Vref 10 0 10V
X1 10 3 1 0 SWhyste params: RON=1 ROFF=1MEG VT={((VON-VOFF)/2) + VOFF} VH={(VON-VOFF)/2}
RUV 3 0 1k
.ENDS UVLO101X
*
